US04072696
1.5 G. of 1,2-diamino-4-n-butylthiobenzene in 30 ml. acetone is treated overnight with 4.5 g. methoxy carbonyl isothiocyanate at room temperature. The solution is concentrated, and the residue triturated with methanol and recrystallized from methanol, yielding 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-n-butylthiobenzene.

reactant | 1,2-diamino-4-n-butylthiobenzene | NC1=C(C=C(C=C1)SCCCC)N | C10H16N2S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-n-butylthiobenzene | COC(=O)NC(NC1=C(C=C(C=C1)SCCCC)NC(=S)NC(=O)OC)=S | C16H22N4O4S3
